US05817671
5-(N-[2,4-difluorobenzoyl]amino)-3-(1-methylpiperidin-4- yl)pyrrolo[3,2-b]pyridine
Beginning with 0.010 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.006 mL (0.053 mMol) 2,4-difluorobenzoyl chloride, 0.012 gm (77%) of the title compound were prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.010 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2,4-difluorobenzoyl chloride | 0.053 mMol, 0.006 mL | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
product | 5-(N-[2,4-difluorobenzoyl]amino)-3-(1-methylpiperidin-4- yl)pyrrolo[3,2-b]pyridine | 0.012 gm, 77% | FC1=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=CC(=C1)F | C20H20F2N4O
